US07754737B2
To a solution of (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)-piperidine-1-carboxylate (160 mg, 0.41 mmol) and Et3N (1 mL) at 0° C. was added acetyl chloride (32.3 mg, 0.41 mmol). The mixture was allowed to warm to rt and stirred overnight. The mixture was concentrated in vacuo to give crude (R)-tert-butyl 3-((R)-(2-acetamidoethoxy)-(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (95 mg, 54%), which was used in the next step without further purification. 1H NMR: (400 MHz, CDCl3): 1.20 (m, 1H), 1.40 (s, 9H), 1.70 (m, 2H), 1.98 (s, 3H), 2.60 (m, 2H), 3.48 (m, 4H), 3.90 (m, 1H), 4.42 (m, 1H), 5.82 (m, 1H), 7.10 (m, 1H), 7.20 (m, 1H), 7.34 (m, 1H); MS (E/Z): 429 (M+1). MS (E/Z): 429 (M+)

reactant | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)-piperidine-1-carboxylate | 0.41 mmol, 160 mg | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F | C19H28ClFN2O3
reactant | acetyl chloride | 0.41 mmol, 32.3 mg | C(C)(=O)Cl | C2H3ClO
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | (R)-tert-butyl 3-((R)-(2-acetamidoethoxy)-(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate | 95 mg, 54% | C(C)(=O)NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F | C21H30ClFN2O4
